US06984653B2
Production of N-methyl-3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propanamide
A mixture of ethyl 3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propionate (180 mg) and a solution (3 ml) of 30% methylamine in ethanol in sealed tube was heated at 120° C. for 12 hr. The reaction mixture was concentrated, and the residue was purified by silica gel column chromatography (eluent; dichloromethane to dichloromethane:methanol=30:1) and recrystallized from ethyl acetate-hexane to give the titled compound (43 mg) as a colorless crystal powder.

reactant | ethyl 3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propionate | 180 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCC(=O)OCC)(F)F | C31H32F3N3O4
reactant | methylamine | 3 ml | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | N-methyl-3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propanamide | 43 mg | CNC(CCC=1N(C=CN1)CCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F)=O | C30H31F3N4O3
